US05260423
Preparation of ethyl benzo-1,2,3-thiadiazole-7-carboximidate hydrochloride (intermediate)
7.2 g of 7-cyanobenzo-1,2,3-thiadiazole are dissolved at 45° C. in 60 ml of absolute ethanol and 20 ml of tetrahydrofuran, and the solution is cooled to 0° C. and saturated with gaseous hydrochloric acid in the course of 1 hour at 0° C. to 15° C., with the exclusion of moisture. The reaction mixture is then stored for 24 hours in the refrigerator, treated with 70 ml of absolute diethyl ether and allowed to stand for another 4 days in the refrigerator. The solid is then filtered off, washed with diethyl ether and dried. This gives 9.4 g of compound 5.2 in the form of beige crystals of m.p. 270°-272° C.

reactant | 7-cyanobenzo-1,2,3-thiadiazole | 7.2 g | C(#N)C1=CC=CC=2N=NSC21 | C7H3N3S
reactant | hydrochloric acid | Cl | ClH
reactant | diethyl ether | 70 ml | C(C)OCC | C4H10O
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | ethyl benzo-1,2,3-thiadiazole-7-carboximidate hydrochloride | Cl.S1N=NC2=C1C(=CC=C2)C(OCC)=N | InChI=1S/C9H9N3OS.ClH/c1-2-13-9(10)6-4-3-5-7-8(6)14-12-11-7;/h3-5,10H,2H2,1H3;1H
